US06642386B2
A solution of 300 mg (RS)-(4-cyano-phenylamino)-[5-ethoxy-2-fluoro-3-(piperidin-4-yloxy)-phenyl]-acetic acid ethyl ester described in example 11.2 in 10 ml THF was treated with 0.19 ml triethylamine, 0.82 ml 2-bromoethanol and 25 mg tetrabutylammonium iodide. The reaction mixture was heated to 50° C. for 6 hrs, then evaporated. The residue was taken up in water and extracted with EtOAc. The crude product was purified by chromatography on silica with dichloromethane/MeOH 9:1 to give 175 mg (RS)-(4-cyano-phenylamino)-{5-ethoxy-2-fluoro-3-[1-(2-hydroxy-ethyl)-piperidin-4-yloxy]-phenyl}acetic acid ethyl ester. MS: 486.4 ([M+H]+).

reactant | (RS)-(4-cyano-phenylamino)-[5-ethoxy-2-fluoro-3-(piperidin-4-yloxy)-phenyl]-acetic acid ethyl ester | 300 mg | C(C)OC(C(C1=C(C(=CC(=C1)OCC)OC1CCNCC1)F)NC1=CC=C(C=C1)C#N)=O | C24H28FN3O4
reactant | triethylamine | 0.19 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromoethanol | 0.82 ml | BrCCO | C2H5BrO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | 25 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (RS)-(4-cyano-phenylamino)-{5-ethoxy-2-fluoro-3-[1-(2-hydroxy-ethyl)-piperidin-4-yloxy]-phenyl}acetic acid ethyl ester | 175 mg | C(C)OC(C(C1=C(C(=CC(=C1)OCC)OC1CCN(CC1)CCO)F)NC1=CC=C(C=C1)C#N)=O | C26H32FN3O5
